US09328096B2
2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-4-methyl-5-(pyridin-2-yl)benzamide
A mixture of 2-chloro-4-methyl-5-(pyridin-2-yl)benzoic acid (Preparation 25, 234 mg, 0.94 mmol), 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile (Preparation 53, 191 mg, 1.04 mmol) and pyridine (0.23 mL, 2.83 mmol) in 2-methyl tetrahydrofuran (20 mL) was heated at reflux for 10 minutes. To this refluxing mixture was added propylphosphonic anhydride solution (2.8 mL, 50% w/w in EtOAc) and the reaction heated at reflux under an atmosphere of argon for 18 hours. The reaction mixture was cooled to room temperature and partitioned between EtOAc (100 mL) and 2M aqueous sodium hydroxide solution (50 mL). The organic layer was washed with 2M aqueous sodium hydroxide solution (50 mL), saturated aqueous ammonium chloride solution (50 mL), water (50 mL), dried over magnesium sulphate and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with 0-20% EtOAc in DCM followed by trituration with diethylether to afford the title compound as a white solid (119 mg, 31%).

reactant | 2-chloro-4-methyl-5-(pyridin-2-yl)benzoic acid | 0.94 mmol, 234 mg | ClC1=C(C(=O)O)C=C(C(=C1)C)C1=NC=CC=C1 | C13H10ClNO2
reactant | 5-amino-1-phenyl-1H-pyrazole-3-carbonitrile | 1.04 mmol, 191 mg | NC1=CC(=NN1C1=CC=CC=C1)C#N | C10H8N4
reactant | pyridine | 2.83 mmol, 0.23 mL | N1=CC=CC=C1 | C5H5N
reactant | propylphosphonic anhydride | 2.8 mL | CCCP(=O)=O | C3H7O2P
solvent | 2-methyl tetrahydrofuran | 20 mL | CC1OCCC1 | C5H10O
product | 2-chloro-N-(3-cyano-1-phenyl-1H-pyrazol-5-yl)-4-methyl-5-(pyridin-2-yl)benzamide | 119 mg, 31% | ClC1=C(C(=O)NC2=CC(=NN2C2=CC=CC=C2)C#N)C=C(C(=C1)C)C1=NC=CC=C1 | C23H16ClN5O
